US04895871
A solution of 14.4 grams (0.065 mole) of 3,4-difluoromethylenedioxybenzoyl chloride in 150 mL of methylene chloride was stirred and cooled to 0° C. To this was added 6.4 grams (0.066 mole) of O,N-dimethylhydroxylamine hydrochloride, followed by the dropwise addition of 11.0 mL (0.136 mole) of pyridine. Upon completion of addition the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was washed with two portions of aqueous 10% hydrochloric acid, two portions of aqueous IN sodium hydroxide, and two portions of an aqueous saturated solution of sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 15.1 grams of N-methyl-N-methoxy-3,4-difluoromethylenedioxybenzamide. The nmr spectrum was consistent with the proposed structure.

reactant | 3,4-difluoromethylenedioxybenzoyl chloride | 0.065 mole, 14.4 grams | FC=1C2=C(C(=O)Cl)C=C(C1F)OCO2 | C8H3ClF2O3
reactant | O,N-dimethylhydroxylamine hydrochloride | 0.066 mole, 6.4 grams | Cl.CONC
reactant | pyridine | 0.136 mole, 11.0 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-N-methoxy-3,4-difluoromethylenedioxybenzamide | 15.1 grams | CN(C(C1=C2C(=C(C(=C1)OCO2)F)F)=O)OC | C10H9F2NO4
